US09126981B2
Synthesis of (S)-(9H-fluoren-9-yl)methyl 1-(benzyl(2,2-diethoxyethyl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylcarbamate (Compound III-13)
According to the procedure described in the synthesis method of Compound III-1, N-benzyl-2,2-diethoxyethanamine (Compound IX-13) (43.3 g, 190 mmol) was coupled with (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid (128.6 g, 280 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=4:1) to obtain the title compound (55.0 g, 43%).

reactant | N-benzyl-2,2-diethoxyethanamine | 190 mmol, 43.3 g | C(C1=CC=CC=C1)NCC(OCC)OCC | C13H21NO2
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid | 280 mmol, 128.6 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C28H29NO5
product | (S)-(9H-fluoren-9-yl)methyl 1-(benzyl(2,2-diethoxyethyl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylcarbamate | 55.0 g, 43% | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=C(C=C1)OC(C)(C)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)CC(OCC)OCC | C41H48N2O6
